US07276624B2
Triethylamine (2.5 g, 0.02 mole) is added gradually to CH2═C(CF3)CF2OSO2F (5 g, 0.02 mole) in dry methanol (10 ml) at 10° C. After 20 minutes the reaction mixture is poured into water. The organic layer is separated, washed in turn in dilute aqueous HCl, water, sodium bicarbonate solution, and water, and then dried over MgSO4. Distillation of the dried mixture gives 3,3-difluoro-3-methoxy-2-trifluoromethylpropene (1.8 g, 50% yield). The isomer 1,1-difluoro-2-trifluoromethyl-3-methoxypropene (about 1%) and CH2═C(CF3)COOCH3 (about 3%) are also detected by gas chromatography-mass spectrometry (GC-MS).

reactant | Triethylamine | 0.02 mole, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | CH2═C(CF3)CF2OSO2F | 0.02 mole, 5 g | C=C(C(F)(F)F)C(F)(F)OS(=O)(=O)F | C4H2F6O3S
reactant | water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 3,3-difluoro-3-methoxy-2-trifluoromethylpropene | 1.8 g, 50% yield | FC(C(=C)C(F)(F)F)(OC)F | C5H5F5O
